US05256661
Preparation of 2-(N-n-propyl-N-2-[2-benzothienyl]ethylamino)-5-hydroxytetralin
A mixture of 2-(N-n-propylamino)-5-methoxytetralin, 2-benzothienyl acetic acid and trimethylaminoborohydride in dry xylene is refluxed under an atmosphere of nitrogen as described by Horn et al, Pharm. Weekbld. Sci. Ed. 7 208-211, 1985. The resulting methoxy intermediate is demethylated using boron tribromide as described in the above article to yield the desired product.

reactant | 2-(N-n-propylamino)-5-methoxytetralin | C(CC)NC1CC2=CC=CC(=C2CC1)OC | C14H21NO
reactant | 2-benzothienyl acetic acid | S1C(=CC2=C1C=CC=C2)CC(=O)O | C10H8O2S
reactant | boron tribromide | B(Br)(Br)Br | BBr3
solvent | xylene | C=1(C(=CC=CC1)C)C | C8H10
product | 2-(N-n-propyl-N-2-[2-benzothienyl]ethylamino)-5-hydroxytetralin | C(CC)N(CCC=1SC2=C(C1)C=CC=C2)C2CC1=CC=CC(=C1CC2)O | C23H27NOS
